US05908859
2-(2-Methoxybenzoyl)-3-Phenyl-6-Methoxybenzo[b]thiophene
3-Phenyl-6-methoxybenzo[b]thiophene and 2-methoxybenzoyl chloride were converted to the title compound by the procedure of Example 1 in 97% yield, after crystallization from methanol.

reactant | 3-Phenyl-6-methoxybenzo[b]thiophene | C1(=CC=CC=C1)C=1C2=C(SC1)C=C(C=C2)OC | C15H12OS
reactant | 2-methoxybenzoyl chloride | COC1=C(C(=O)Cl)C=CC=C1 | C8H7ClO2
product | 2-(2-Methoxybenzoyl)-3-Phenyl-6-Methoxybenzo[b]thiophene | 97% yield | COC1=C(C(=O)C2=C(C3=C(S2)C=C(C=C3)OC)C3=CC=CC=C3)C=CC=C1 | C23H18O3S
